US07700609B2
(4-Methyl-1-thiophen-3-yl-pentylideneaminooxy)-acetic acid
4-Methyl-1-thiophen-3-yl-pentan-1-one (324 mg, 1.78 mmol) was dissolved in dry methanol (20 ml) under nitrogen atmosphere, treated with carboxymethoxylamine hemihydrochloride (194 mg, 1.78 mmol) and sodium hydroxide (35 mg, 0.89 mmol) and stirred at room temperature for 4 hours. The solvent is then removed in vacuo and the resulting oil was triturated with hexane to give the title compound as a white solid (307 mg, 67%). MS (ES+) 25. δH (d6 DMSO): 1.00 (6H, d), 1.45 (2H, q), 1.63 (1H, m), 2.75 (2H, t), 4.65 (2H, s), 7.39 (1H, d), 7.60 (1H, d), 7.86 (1H, s), 12.70 (1H, s).

reactant | 4-Methyl-1-thiophen-3-yl-pentan-1-one | 1.78 mmol, 324 mg | CC(CCC(=O)C1=CSC=C1)C | C10H14OS
reactant | carboxymethoxylamine hemihydrochloride | 1.78 mmol, 194 mg | Cl.C(=O)(O)CON.C(=O)(O)CON
reactant | sodium hydroxide | 0.89 mmol, 35 mg | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | (4-Methyl-1-thiophen-3-yl-pentylideneaminooxy)-acetic acid | 307 mg, 67% | CC(CCC(C1=CSC=C1)=NOCC(=O)O)C | C12H17NO3S
